US04081440
EXAMPLE 1 -- Preparation of Methyl 3-Methyl-2-(2-chlorosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate
A solution of 18.8 g. (50 mmol) of methyl 6β-phthalimido-2,2-dimethylpenam-3-carboxylate-1-oxide and 6.7 g. (50 mmol) of N-chlorosuccinimide in 1000 ml. of dry carbon tetrachloride was refluxed for 70 minutes. The mixture was cooled and then was washed with water and brine. After drying over MgSO4, the solvent was evaporated, and 19.5 g. (95%) of the title compound as a colorless solid was obtained. The nmr spectrum (CDCl3) indicates that the product is the sulfinyl chloride.

reactant | methyl 6β-phthalimido-2,2-dimethylpenam-3-carboxylate-1-oxide | 50 mmol | C1(C=2C(C(N1[C@H]1[C@@H]3N(C(C(S3=O)(C)C)C(=O)OC)C1=O)=O)=CC=CC2)=O | C17H16N2O6S
reactant | N-chlorosuccinimide | 50 mmol | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 3-Methyl-2-(2-chlorosulfinyl-4-oxo-3-phthalimido-1-azetidinyl)-3-butenoate | 95% | CC(C(C(=O)OC)N1C(C(C1=O)N1C(C=2C(C1=O)=CC=CC2)=O)S(=O)Cl)=C | C17H15ClN2O6S
